US06627629B2
Part N: Preparation of (3R,4R)-4-[3-(3-acetyl-phenyl)-ureido]-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester
In a dry flask (3R,4R)-4-amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester (56 mg, 0.133 mmol) was dissolved in tetrahydrofuran (2 mL) and triethylamine (24 μL, 0.172 mmol) and 3-acetylphenylisocyanate (22 μL, 0.160 mmol) were added. The reaction mixture was stirred for 17 hours. One-half of the original reaction mixture (1 mL) was concentrated in vacuo then purified by preparative reverse-phase HPLC (10-80% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (24 mg, 62%). 1H NMR (400 MHz, DMSO, 120° C.), δ: 8.32 (s, 1H), 7.91 (t, 1H, J=2), 7.58 (m, 1H), 7.48 (m, 1H), 7.33 (t, 1H, J=8), 7.15 (m, 2H), 6.99 (m, 2H), 5.98 (d, 1H, J=10), 4.04 (bd, 1H, J=13), 3.89 (bm, 4H), 3.20 (bs, 2H), 2.96 (m, 2H), 2.86 (m, 2H), 2.50 (s, 3H), 2.46 (m, 2H), 1.90 (m, 1H), 1.62 (bm, 4H), 1.43 (2s, 9H), 1.20 (m, 1H). HRMS (ESI), C32H42FN4O5 m+/z: calc.=581.3139, found=581.3141.

reactant | (3R,4R)-4-amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 0.133 mmol, 56 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)N)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C23H34FN3O3
reactant | triethylamine | 0.172 mmol, 24 μL | C(C)N(CC)CC | C6H15N
reactant | 3-acetylphenylisocyanate | 0.160 mmol, 22 μL | C(C)(=O)C=1C=C(C=CC1)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (3R,4R)-4-[3-(3-acetyl-phenyl)-ureido]-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 24 mg, 62% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC(=O)NC1=CC(=CC=C1)C(C)=O)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C32H41FN4O5
